US08138377B2
B. Synthesis of 3-(3,4-dichlorophenyl)cyclopent-2-en-1-ol
A solution of 3-(3,4-dichlorophenyl)cyclopent-2-en-1-one (2 g, 8.8 mmol) in methanol (40 mL) at 0° C. was treated with CeCl3 7H2O (4.26 g, 11.4 mmol) followed portionwise by NaBH4 (0.43 g, 11.4 mmol). The reaction was warmed to room temperature. The reaction mixture was stirred for 4 h, then quenched with saturated aqueous NH4Cl and concentrated to remove methanol. The concentrate was diluted with H2O and extracted with EtOAc (3×). The combined organic extracts were washed with brine, dried over MgSO4, filtered, concentrated in vacuo and purified by silica gel chromatography using CH2Cl2/Methanol as the eluting solvent to afford 2 g (Yield 99%) of the target compound. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.82-1.92 (m, 1 H) 2.40-2.52 (m, 1 H) 2.54-2.65 (m, 1 H) 2.79-2.91 (m, 1 H) 4.96-5.04 (m, 1 H) 6.20-6.26 (m, 1 H) 7.27-7.31 (m, 1 H) 7.37-7.42 (m, 1 H) 7.51 (d, 1 H).

reactant | 3-(3,4-dichlorophenyl)cyclopent-2-en-1-one | 8.8 mmol, 2 g | ClC=1C=C(C=CC1Cl)C1=CC(CC1)=O | C11H8Cl2O
reactant | NaBH4 | 11.4 mmol, 0.43 g | [BH4-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
product | 3-(3,4-dichlorophenyl)cyclopent-2-en-1-ol | 2 g, Yield 99% | ClC=1C=C(C=CC1Cl)C1=CC(CC1)O | C11H10Cl2O
